US06372910B1
U.S. Pat. No. 3,812,130 describes reacting solid 1,8-naphthalic anhydride with gaseous ammonia to produce 1,8 naphthalimide. The product is isolated directly by evaporating off the water. Although this procedure minimizes waste water, it still requires a pressure vessel and has the disadvantage of not allowing for any water soluble impurities or unreacted starting material to be removed after the reaction. Thus, a potentially impure product is produced.

reactant | 1,8-naphthalic anhydride | C=1C=C2C=CC=C3C2=C(C1)C(=O)OC3=O | C12H6O3
reactant | ammonia | N | H3N
product | 1,8 naphthalimide | C=1C=C2C=CC=C3C2=C(C1)C(=O)NC3=O | C12H7NO2
